US08604034B2
LiOH H2O (0.2 M, 6.8 mL, 1.36 mmol) was added portionwise to a solution of crude methyl 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate (210 mg, 0.39 mmol) in THF (0.5 mL), and the mixture stirred at 40° C. for 3 h, after which time the TLC analysis showed consumption of starting material ester. The reaction mixture was diluted with aqueous NaOH solution (1M) (50 mL) and the mixture washed with CH2Cl2 (100 mL). The aqueous layer was acidified to pH 2 with aqueous HCl solution (1M) and was extracted with CH2Cl2 containing 30% of propan-2-ol (2×150 mL). The organic layers were combined, dried (MgSO4) and concentrated in vacuo to give 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid (100 mg, yield 75%). This crude material was used in the next step without further purification.

reactant | LiOH H2O | 1.36 mmol, 0.2 M, 6.8 mL | O[Li].O
reactant | methyl 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 0.39 mmol, 210 mg | BrC=1C=C(N(C1)CC(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C14H11BrClNO3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid | 100 mg, yield 75% | BrC=1C=C(N(C1)CC(=O)C1=CC=C(C=C1)Cl)C(=O)O | C13H9BrClNO3
